US04374829
A solution of 0.731 g. of trans-3-amino-4-(2-methylpropyl)-2-azetidinone (prepared by chlorosulfonyl isocyanate addition to 4-methyl-1-pentene. The obtained β-lactam is protected as the t-butyldimethylsilyl derivative and then treated with lithium diisopropylamide followed by tosyl azide and chlorotrimethylsilane. Acidic work up and silica gel chromatography affords the trans-3-azido-4-(2-methylpropyl)-2-azetidinone which is hydrogenated (10% Pd/C ethanol) to the amino derivative) and 4.58 g. of benzyl pyruvate in 20 ml of absolute ethanol containing 10 g of powdered 4 A molecular sieves is treated dropwise with a solution of sodium cyanoborohydride (0.65 g) in 8 ml of absolute ethanol and stirred until reaction is complete. The reaction mixture is filtered and the filtrate concentrated. The residue is dissolved in 50 ml of water and acidified with 1 N HCl to pH=3. The mixture is readjusted to pH=9.5 with 10% sodium carbonate solution. The aqueous solution is saturated with sodium chloride and extracted with ethyl acetate (5×40 ml). The combined organic layers are dried (sodium sulfate) and concentrated to give an oil (4.94 g.). Chromatography on silica gel (ethyl acetate) affords 1.11 g of product. NMR and mass spectrogram are consistent with the structure N-[trans-4-(2-methylpropyl)- 2-oxo-3-azetidinyl]-D,L-alanine benzyl ester. Debenzylation is accomplished by catalytic hydrogenation (10% Pd/C, 2:1 ethanol:water). A cold solution (0°) of the acid (428 mg) and L-proline t-butyl ester (377 mg) in 5 ml of dimethylformamide is treated with a solution of diphenylphosphoryl azide (605 mg) in 5 ml of dimethylformamide and then with a solution of triethylamine (223 mg in 5 ml of dimethylformamide) over 20 minutes. After three hours the ice bath is removed and the reaction mixture permitted to stir at ambient temperature overnight. Ethyl acetate (100 ml) is added and the resulting solution washed with water (2×40 ml), 5% sodium carbonate solution (3×30 ml), and water (1×50 ml) before drying with sodium sulfate. Concentration affords an oil, 0.78 g, whose nmr and mass spectra are consistent with the N-[trans-4-(2-methylpropyl)-2-oxo-3-azetidinyl]-D,L-alanyl-L-proline-t-butyl ester structure. The crude product is dissolved in 25 ml of trifluoroacetic acid (at 0°). The reaction mixture is stirred at 0° for twenty minutes and then at room temperature for 21/2 hrs. The reaction mixture is concentrated to dryness and the residue treated with 1 N NaOH (30 ml) for 4.5 hr. at room temperature. The basic mixture is slowly added to a strong acid ion-exchange resin and the product recovered with 2% pyridine in water. Freeze-drying affords 0.30 g of N-[2-amino-1-carboxy-4-methylpentyl]-D,L-alanyl-L-proline which consists of four diastereomers (S,S,S,S,; S,S,R,S; R,R,R,S; R,R,S,S) separable by chromatography. Nmr and mass spectrogram are consistent with structure. The nmr spectrum shows multiplets centered at 4.5, 3.85, 2.3, 1.79, and 1.16 ppm. The mass spectrogram shows a peak at 458 (disilylated molecular ion -15).

reactant | N-[trans-4-(2-methylpropyl)- 2-oxo-3-azetidinyl]-D,L-alanine benzyl ester | C(C1=CC=CC=C1)OC(C(N[C@@H]1C(N[C@H]1CC(C)C)=O)C)=O | C17H24N2O3
reactant | L-proline t-butyl ester | 377 mg | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | diphenylphosphoryl azide | 605 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N-[trans-4-(2-methylpropyl)-2-oxo-3-azetidinyl]-D,L-alanyl-L-proline-t-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(N[C@@H]1C(N[C@H]1CC(C)C)=O)C)=O)=O | C19H33N3O4
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Pd/C | [Pd] | Pd
solvent | triethylamine | 5 ml, 223 mg | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N-[2-amino-1-carboxy-4-methylpentyl]-D,L-alanyl-L-proline | 0.30 g | NC(C(C(=O)O)NC(C)C(=O)N1[C@H](C(=O)O)CCC1)CC(C)C | C15H27N3O5
